US06495542B1
A mixture of 2-methoxy-N-(2-tert-butyldimethylsiloxymethyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide (250 mg) and tetrabutylammonium fluoride (1 mol solution in tetrahydrofuran 0.9 ml) in tetrahydrofuran (15 ml) was stirred at room temperature for 4 hours, and the solvent was removed by evaporation. The residue was purified by silica gel column chromatography (1% methanol in chloroform) to give 2-methoxy-N-(2-hydroxymethyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide (125 mg).

reactant | 2-methoxy-N-(2-tert-butyldimethylsiloxymethyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide | 250 mg | COC1=C(C(=O)NC2=CC=CC=3NC(=NC32)CO[Si](C)(C)C(C)(C)C)C=CC(=C1)C(=O)N1CCCCC3=C1C=CC=C3 | C33H40N4O4Si
reactant | tetrabutylammonium fluoride | 1 mol, 0.9 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-methoxy-N-(2-hydroxymethyl-1H-benzimidazol-4-yl)-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide | 125 mg | COC1=C(C(=O)NC2=CC=CC=3NC(=NC32)CO)C=CC(=C1)C(=O)N1CCCCC3=C1C=CC=C3 | C27H26N4O4
